US08633200B2
Methyl 2-(2-bromo-7-chloro-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate
To a stirred solution of KHMDS (0.5 M in toluene, 2.83 mL, 1.413 mmol) in THF (6 mL) at −78° C. was added a solution of methyl 2-(2-bromo-7-chloro-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (300 mg, 0.942 mmol) in THF (6 mL) dropwise over 20 min. The mixture was stirred at −78° C. for 30 min. A solution of 3-phenyl-2-(phenylsulfonyl)-1,2-oxaziridine (369 mg, 1.413 mmol) in THF (6 mL) was added over 15 min and the reaction mixture was stirred for additional 60 min at −78° C. The reaction mixture was quenched with saturated NH4Cl aqueous solution (4 mL). The reaction mixture was allowed to warm to room temperature and then diluted with ethyl acetate (100 mL). The organic phase was washed with water and brine and dried with sodium sulfate. The solvent was evaporated. Purification by silica gel chromatography provided the title compound (85 mg, 27%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.63 (3H, s), 3.84 (3H, s), 5.74 (1H, s), 6.71 (1H, s).

reactant | KHMDS | 1.413 mmol, 0.5 M, 2.83 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | methyl 2-(2-bromo-7-chloro-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.942 mmol, 300 mg | BrC1=NN2C(N=C(C(=C2Cl)CC(=O)OC)C)=C1 | C10H9BrClN3O2
reactant | 3-phenyl-2-(phenylsulfonyl)-1,2-oxaziridine | 1.413 mmol, 369 mg | C1(=CC=CC=C1)C1N(O1)S(=O)(=O)C1=CC=CC=C1 | C13H11NO3S
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | Methyl 2-(2-bromo-7-chloro-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 85 mg, 27% | BrC1=NN2C(N=C(C(=C2Cl)C(C(=O)OC)O)C)=C1 | C10H9BrClN3O3
